* File: myNAND.pex.netlist
* Created: Wed Nov 27 14:02:31 2024
* Program "Calibre xRC"
* Version "v2016.4_38.25"
* 
.include "myNAND.pex.netlist.pex"
.subckt myNAND  A GND! B Z VDD!
* 
* VDD!	VDD!
* Z	Z
* B	B
* GND!	GND!
* A	A
MM0 NET013 N_A_MM0_g N_GND!_MM0_s N_GND!_MM0_b NMOS_VTL L=5e-08 W=9e-08
+ AD=1.35e-14 AS=1.08e-14 PD=4.8e-07 PS=4.2e-07
MM1 N_Z_MM1_d N_B_MM1_g NET013 N_GND!_MM0_b NMOS_VTL L=5e-08 W=9e-08 AD=1.08e-14
+ AS=1.35e-14 PD=4.2e-07 PS=4.8e-07
MM3 N_Z_MM3_d N_A_MM3_g N_VDD!_MM3_s N_VDD!_MM3_b PMOS_VTL L=5e-08 W=1.8e-07
+ AD=2.7e-14 AS=2.16e-14 PD=6.6e-07 PS=6e-07
MM2 N_Z_MM3_d N_B_MM2_g N_VDD!_MM2_s N_VDD!_MM3_b PMOS_VTL L=5e-08 W=1.8e-07
+ AD=2.7e-14 AS=2.16e-14 PD=6.6e-07 PS=6e-07
*
.include "myNAND.pex.netlist.MYNAND.pxi"
*
.ends
*
*
